US08492395B2
To a stirred suspension of 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.49 g, 1.5 mmol) and triethylamine (0.28 mL, 2.1 mmol) in THF (12 mL) at 5˜10° C., was added trifluoromethoxy-phenyl isocyanate (0.29 mL, 1.9 mmol), and the mixture was stirred at room temperature overnight. The mixture was quenched with methanol (˜1 mL), and the solvent was evaporated. The residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 1-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-3-(4-trifluoromethoxy-phenyl)-urea as an off-white solid (490 mg, 67% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.47 min (98.6%); mp, 201-203° C.; 1HNMR (DMSO-d6) 2.15-2.20 (m, 1H, CHH), 2.56-2.90 (m, 6H, CHCH2, CH3), 4.42 (d, J=5 Hz, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 6.84 (t, J=6 Hz, 1H, CH2NH), 7.21-7.96 (m, 7H, Ar), 8.88 (s, 1H, NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.93, 23.39, 30.61, 42.33, 56.53, 118.81, 120.01, 120.17 (q, JC-F=255 Hz), 121.54, 123.66, 126.54, 133.93, 139.04, 139.69, 142.08, 145.76, 154.52, 155.12, 160.46, 169.48, 172.60. LCMS MH=504; Anal Calcd For C23H20N5O5F3+0.2H2O: C, 54.48; H, 4.06; N, 13.81; F, 11.24. Found: C, 54.25; H, 4.00; N, 13.59; F, 11.24.

reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.49 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
reactant | triethylamine | 2.1 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethoxy-phenyl isocyanate | 1.9 mmol, 0.29 mL | FC(OC1=C(C=CC=C1)N=C=O)(F)F | C8H4F3NO2
reactant | THF | 12 mL | C1CCOC1 | C4H8O
product | 1-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-3-(4-trifluoromethoxy-phenyl)-urea | 490 mg, 67% yield | O=C1NC(CCC1N1C(=NC2=CC=C(C=C2C1=O)CNC(=O)NC1=CC=C(C=C1)OC(F)(F)F)C)=O | C23H20F3N5O5
